US04760163
A solution of 3.5 g of isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,5-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate in 100 ml of carbon tetrachloride is heated to reflux temperature while stirring for 1 hour with 1.8 g of N-bromosuccinimide and some dibenzoyl peroxide. The reaction mixture is irradiated with a 150 W bulb. The succinimide is filtered off under suction and the filtrate is evaporated to dryness under reduced pressure. The residue is purified by chromatography on a silica gel column using methylene chloride/ethyl acetate (7:1) as the eluent. There is obtained isopropyl 2-chloro-4-fluoro-5-[5-bromomethyl-3,6-dihydro-3-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, 1H--NMR (CDCl3, 400 MHz) 7.84 ppm. (d, 1H), 7.58 ppm (s, 1H), 7.36 ppm (d, 1H), 5.24 ppm (m, 1H), 4.35 ppm (d, 1H), 4.29 ppm (d, 1H), 3.48 ppm (s, 3H), 1.37 ppm (2d, 6H).

reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,5-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | 3.5 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C=C(C1=O)C)C)=O | C16H16ClFN2O4
reactant | N-bromosuccinimide | 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | isopropyl 2-chloro-4-fluoro-5-[5-bromomethyl-3,6-dihydro-3-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C=C(C1=O)CBr)C)=O | C16H15BrClFN2O4
